US06194444B1
Production of 5-(5-mercapto-1,3,4-oxadiazol-2-yl)-4-methyl-1,2,3-thiadiazole (Compound No. 102)
A solution of 0.3 g of potassium hydroxide in 1 ml water and 0.6 ml of carbon disulfide were successively added to a solution of 1.1 g (7.2 mmol) of 4-methyl-1,2,3-thiadiazole-5-carbohydrazide in 15 ml ethanol. The mixture was stirred for 6.5 hours with heating under reflux. After the reaction was completed, the solvent was distilled off under reduced pressure, water was added to the residue, acetic acid was added for the sake of acidification, and the deposited crystalline product was collected by filtration. Thus, 0.82 g of the objective compound was obtained.

reactant | potassium hydroxide | 0.3 g | [OH-].[K+]
reactant | 4-methyl-1,2,3-thiadiazole-5-carbohydrazide | 7.2 mmol, 1.1 g | CC=1N=NSC1C(=O)NN | C4H6N4OS
reactant | carbon disulfide | 0.6 ml | C(=S)=S | CS2
solvent | water | 1 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-(5-mercapto-1,3,4-oxadiazol-2-yl)-4-methyl-1,2,3-thiadiazole | 0.82 g, Yield: 59% | SC1=NN=C(O1)C1=C(N=NS1)C | C5H4N4OS2
